US06133303
4-{6-[2-(1H-Imidazole-4-yl)-ethoxy]-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidenemethyl}-benzamide, monohydrochloride
According to the method of Example 34, 6-[2-(1H-imidazole-4-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride (0.313 g, 1.07 mmol) was reacted with benzamide-4-carboxaldehyde (0.178 g, 1.13 mmol) in 5 mL of 4% KOH in EtOH overnight to afford 0.197 (42%) of the title compound as an off-white powder, mp dec. >230° C.: CI-MS m/e 388 (M+ +1).

reactant | 6-[2-(1H-imidazole-4-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride | 1.07 mmol, 0.313 g | Cl.N1C=NC(=C1)CCOC=1C=C2CCCC(C2=CC1)=O
reactant | benzamide-4-carboxaldehyde | 1.13 mmol, 0.178 g | C1=CC(=CC=C1C=O)C(=O)N | C8H7NO2
solvent | KOH | 5 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 4-{6-[2-(1H-Imidazole-4-yl)-ethoxy]-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidenemethyl}-benzamide, monohydrochloride | Cl.N1C=NC(=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=C(C(=O)N)C=C1 | InChI=1S/C23H21N3O3.ClH/c24-23(28)16-3-1-15(2-4-16)11-18-6-5-17-12-20(7-8-21(17)22(18)27)29-10-9-19-13-25-14-26-19;/h1-4,7-8,11-14H,5-6,9-10H2,(H2,24,28)(H,25,26);1H
